US05430027
N-[(4-Nitrophenyl)methoxy]adenosine
The title compound was prepared according to Method A described above (R2, R3 =H) by reacting O-[(4-nitrophenyl)methyl]hydroxylamine hydrochloride (1.43 g, 7 mmol) with 6-chloropurine riboside (i.e. 9-β-D-ribofuranosyl-6-chloro-9H-purine) (1.0 g, 3.5 mmol) in DMF (40 ml) at 110° C. for 2 h with diisopropylethylamine (1.80 g, 14 mmol) present. The reaction mixture was evaporated and to the resultant residue was added saturated sodium bicarbonate solution (20 ml) and water (20 ml). Methanol was gradually added until the residue dissolved, and the solid which gradually precipitated was removed by filtration. The flitrate was concentrated to a residue which was purified by flash chromatography on silica gel. Elution with ethyl acetate/ethanol (30/1) initially, followed by a (8/1) mixture of these solvents provided a solid which was recrystallized from ethanol. The first crop of material was discarded, but the second crop was confirmed as the title compound (70 mg, 7%) mp 115°-117 ° C. TLC rf 0.20 [SiO2, ethyl acetate/methanol (9/1)]; 1H NMR (DMSO-d6)γ 3.46-3.57 (2H, m, H-5'a and H-5'b), 3.90 (1H, q, H-4'), 4.08 (1H, q, H-3'), 4.43 (1H, q, H-2'), 5.07 (1H, t, 5'-OH), 5.44, 5.74 (2H, 2d, 2'and 3'-OH), 5.82 (1H, d, H-1'), 7.67 (2H, d, Ar-H), 8.08 (1h, s, H-8), 8.22 (2H, d, Ar-H), 9.34 (1H, br s, N-H).

reactant | O-[(4-nitrophenyl)methyl]hydroxylamine hydrochloride | 7 mmol, 1.43 g | Cl.[N+](=O)([O-])C1=CC=C(C=C1)CON
reactant | 6-chloropurine riboside | 3.5 mmol, 1.0 g | C1=NC2=C(C(=N1)Cl)N=CN2[C@H]3[C@@H]([C@@H]([C@H](O3)CO)O)O | C10H11ClN4O4
reactant | diisopropylethylamine | 14 mmol, 1.80 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
product | N-[(4-Nitrophenyl)methoxy]adenosine | [N+](=O)([O-])C1=CC=C(C=C1)CONC=1C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N=CN1 | C17H18N6O7
